US08629137B2
7-methoxy-3-[5′-methyl-4′-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
688 mg (2.50 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and 378 mg (1.25 mmol) 6-(2-chloro-5-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one (mixture) were combined and heated to 300° C. for approx. 10 min. Then the mixture was dissolved in DMF and purified by preparative HPLC-MS. The fractions containing the product were combined and the organic solvent was evaporated down. The residue was neutralised with 1N aqueous sodium hydroxide solution, the precipitate formed was suction filtered, washed with water and dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 2.50 mmol, 688 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | 6-(2-chloro-5-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 1.25 mmol, 378 mg | ClC1=NC=C(C(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)C | C15H11ClN2O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-methoxy-3-[5′-methyl-4′-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=C(C(=C2)C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)C)=O)C=C1 | C30H31N5O5
